US09422240B2
Instead of 4-hydroxybenzotrifluoride and 6-bromo-3-pyridinecarboxyaldehyde, p-cresol (833 mg) and methyl 5-chloro-2-pyrazinecarboxylate (1.33 g) were respectively used and treated by the same technique as in Reference Example 13-1 to give methyl 5-(4-methylphenoxyl)pyrazine-2-carboxylate as a colorless solid (1.36 g).

reactant | 4-hydroxybenzotrifluoride | OC1=CC=C(C=C1)C(F)(F)F | C7H5F3O
reactant | p-cresol | 833 mg | C1=CC(=CC=C1O)C | C7H8O
reactant | methyl 5-chloro-2-pyrazinecarboxylate | 1.33 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
product | methyl 5-(4-methylphenoxyl)pyrazine-2-carboxylate | 1.36 g | CC1=CC=C(OC=2N=CC(=NC2)C(=O)OC)C=C1 | C13H12N2O3
